US07745438B2
(2R,5R)-2-Cyclohexyloxymethyl-5-[(1S,2S)-3-(3,5-difluorophenyl)-2-((E)-3-dipropylcarbamoyl-2-methylacryloylamino)-1-hydroxypropyl]-morpholine-4-carboxylic acid tert-butyl ester
Dissolve (E)-3-dipropylcarbamoyl-2-methylacrylic acid (0.029 g, 0.134 mmol) in dichloromethane (1.3 mL). Add 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCl) (0.028 g, 0.148 mmol) then 1-hydroxybenzotriazole (HOBT) (0.023 g, 0.148 mmol). Stir at room temperature for 30 minutes. To this stirring solution add (2R,5R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-cyclohexyloxymethylmorpholine-4-carboxylic acid tert-butyl ester (0.065 g, 0.134 mmol) in dichloromethane (1.5 mL). Stir for 2.5 hours, quench with 10% aqueous potassium carbonate (20 mL), and dilute with dichloromethane (75 mL). Extract the organic layer, wash with 5% aqueous citric acid (25 mL), saturated aqueous sodium chloride (30 mL), dry (magnesium sulfate) and purify (silica gel chromatography, eluting with 30:70 to 70:30 ethyl acetate:hexanes) to give the title compound as a white foam (0.041 g, 45.2%).

reactant | (E)-3-dipropylcarbamoyl-2-methylacrylic acid | 0.134 mmol, 0.029 g | C(CC)N(C(=O)/C=C(/C(=O)O)\C)CCC | C11H19NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.148 mmol, 0.028 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.148 mmol, 0.023 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (2R,5R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-cyclohexyloxymethylmorpholine-4-carboxylic acid tert-butyl ester | 0.134 mmol, 0.065 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)COC1CCCCC1 | C25H38F2N2O5
solvent | dichloromethane | 1.3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | (2R,5R)-2-Cyclohexyloxymethyl-5-[(1S,2S)-3-(3,5-difluorophenyl)-2-((E)-3-dipropylcarbamoyl-2-methylacryloylamino)-1-hydroxypropyl]-morpholine-4-carboxylic acid tert-butyl ester | 0.041 g, 45.2% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(\C(=C\C(N(CCC)CCC)=O)\C)=O)O)COC1CCCCC1 | C36H55F2N3O7
